US06518264B2
50 mm3 of pyrrolidine are added to a solution of 0.32 g of 1-{(R*)-[4-(chloromethyl)phenyl](4-chlorophenyl)methyl}-3-[(3,5-difluorophenyl)(methylsulfonyl)methylene]azetidine, form A isomer, and 5 mg of sodium iodide in 10 cm3 of dichloromethane. After stirring for 20 hours at 20° C., 50 mm3 of pyrrolidine are added to the mixture, stirred for 8 hours and then 50 mm3 of pyrrolidine are again added and the mixture is stirred for 20 hours at 20° C. The reaction mixture is washed with water and then the organic phase is dried over magnesium sulfate and concentrated to dryness under vacuum (2.7 kPa). The residue obtained is chromatographed on a silica gel column (particle size 0.06-0.200 mm, diameter 1.2 cm, height 30 cm), at an argon pressure of 0.1 bar, eluting with dichloromethane and then with a dichloromethane and methanol mixture (97.5/2.5 by volume) and collecting 3 cm3 fractions. Fractions 12 to 40 are combined and then concentrated to dryness under reduced pressure (2.7 kPa). 0.18 g of 1-{(R*)-(4-chlorophenyl)[4-pyrrolidinylmethyl)phenyl]methyl}-3-[(3,5-difluorophenyl)(methylsulfonyl)methylene]azetidine, form A isomer, is obtained in the form of a white foam [a]20365 nm=−22.5 +/−0.7 (c=0.5%; dichloromethane) [1H NMR spectrum (300 MHz, CDCl3, δ in ppm): 1.78 (mt, 4H), 2.51 (mt, 4H), 2.81 (s, 3H), 3.58 (s, 2H), 3.84 (mt, 2H), 4.33 (mt, 2H), 4.50 (s, 1H), 6.84 (tt, J=9 and 2.5 Hz, 1H), 6.98 (mt, 2H), from 7.20 to 7.40 (mt, 8H)].

reactant | pyrrolidine | 50 mm3 | N1CCCC1 | C4H9N
reactant | 1-{(R*)-[4-(chloromethyl)phenyl](4-chlorophenyl)methyl}-3-[(3,5-difluorophenyl)(methylsulfonyl)methylene]azetidine | 0.32 g | ClCC1=CC=C(C=C1)[C@@H](N1CC(C1)=C(S(=O)(=O)C)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C25H21Cl2F2NO2S
reactant | sodium iodide | 5 mg | [I-].[Na+]
reactant | pyrrolidine | 50 mm3 | N1CCCC1 | C4H9N
reactant | pyrrolidine | 50 mm3 | N1CCCC1 | C4H9N
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
product | 3-[(3,5-difluorophenyl)(methylsulfonyl)methylene]azetidine | FC=1C=C(C=C(C1)F)C(S(=O)(=O)C)=C1CNC1 | C11H11F2NO2S
